US05059610
A solution of 0.65 g (5.4 mmol) 3-hydroxybenzoinitirle, 1.5 g (5.3 mmol) of 3-(2-quinolinylmethyloxy)benzyl chloride, and 0.75 g (5.4 mmol) of potassium carbonate in 15 ml of DMF is heated at 60° C. overnight. The reaction mixture is poured into water. The precipitated product is collected on a filter and purified by dry column chromatography to give 3-[3-(2-quinolinylmethyloxy)benzyloxy]benzonitrile. (M.P. 86°-87° C.)

reactant | 3-(2-quinolinylmethyloxy)benzyl chloride | 5.3 mmol, 1.5 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(CCl)C=CC1 | C17H14ClNO
reactant | potassium carbonate | 5.4 mmol, 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-[3-(2-quinolinylmethyloxy)benzyloxy]benzonitrile | N1=C(C=CC2=CC=CC=C12)COC=1C=C(COC=2C=C(C#N)C=CC2)C=CC1 | C24H18N2O2
